Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization ___

 
History of Present Illness:
Mr. ___ is a ___ man from ___ with a history of
hypertension, diabetes mellitus, and a reported anterior MI in
___ who presents with headache, chest pain, and
hypertension. Reportedly, the patient had an anterior MI on 
___
in ___ without any intervention. Subsequently, he moved 
to
the ___ and has not seen any providers since. On ___, he had a
severe headache that self-resolved. On ___, he again experienced
a severe headache as well as RUQ, epigastric and right-sided
chest pain and presented to the ED. In triage, he was found to 
be
hypertensive with systolic blood pressures in the 220s. By the
time he was evaluated, his headache, chest pain, and abdominal
pain had resolved. 

In the ED initial vitals were:  
T 97.2F HR 66 BP 228/119 RR 20 O2 100% RA
 
EKG: NSR with TWI in I, aVL, V5, V6

Labs/studies notable for:  
Hgb 12.3 
Lipase 75
BMP within normal limites
Troponin negative x2
UA with protein and glucose 

CXR with no acute cardiopulmonary process. 

Liver/Gallbladder Ultrasound: 
1. Normal liver.
2. 0.8 cm non mobile gallbladder polyp.
3. No gallstones or evidence of acute cholecystitis.

Cardiac stress test with no anginal symptoms or ST segment
changes. 

Cardiac perfusion exam - prelim only with moderate partially
reversible lateral wall defect with hypokinesis 

Patient was given:  
Aspirin 324 mg PO 
Clopidogrel 75 mg PO 
Metoprolol tartrate 100 mg PO 
Atorvatatin 10 mg PO 
Finasteride 5 mg PO 
Omeprazole 20 mg PO 
Metformin 1000 mg PO 
Nitrofurantoin 100 mg PO 
Valsartan-hydrochlorothiazide PO
Insulin 

Vitals on transfer:  
T 97.6 HR 56 BP 175/92 RR 15 O2 97% RA 

On the floor, he endorses the above history. He reports 
currently
feeling well with no symptoms. He notes that he frequently has a
headache when he is hypertensive. He is unsure of what
interventions were performed for his MI in ___, but is
fairly certain that he did not receive a PCI.  

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, palpitations, syncope, or presyncope.  

On further review of systems, denies any prior history of 
stroke,
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the
time of surgery, myalgias, joint pains, cough, hemoptysis, black
stools or red stools. Denies exertional buttock or calf pain.
Denies recent fevers, chills or rigors. All of the other review
of systems were negative.  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes  
- Hypertension  
- unclear history of dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- BPH
- ?GERD 

 
Social History:
___
Family History:
Mother died of cancer. No family history of early MI, 
arrhythmia, cardiomyopathies, or sudden cardiac death.  

 
Physical Exam:
ADMIT EXAM
==========
T97.6F BP 211/103 HR 61 RR 20 O2 96 RA 
GENERAL: pleasant elderly man in NAD. Oriented x3. Mood, affect
appropriate.  
HEENT: bilateral cataracts. NCAT. Sclera anicteric. PERRL, EOMI.
Conjunctiva were pink, no pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple with no visible JVP   
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. Soft systolic murmur. No rubs/gallops.
No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: Stellate scar on left lower extremity. No stasis
dermatitis, ulcers, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE EXAM
==============
___ 0413 Temp: 97.8 PO BP: 143/78 L Lying HR: 61 RR: 15 O2
sat: 96% O2 delivery: Ra 
GENERAL: pleasant elderly man in NAD. Oriented x3. Mood, affect
appropriate.  
HEENT: bilateral cataracts. NCAT. Sclera anicteric. PERRL, EOMI.
Conjunctiva were pink, no pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple with no visible JVP   
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. Soft systolic murmur. No rubs/gallops.
No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: Stellate scar on left lower extremity. Right radial artery
incision clean, dry and nonerythematous. Not TTP. Slight 
swelling
around the site.

 
Pertinent Results:
ADMIT LABS
==========
___ 08:47PM BLOOD WBC-7.0 RBC-4.16* Hgb-12.3* Hct-36.4* 
MCV-88 MCH-29.6 MCHC-33.8 RDW-13.2 RDWSD-41.8 Plt ___
___ 08:47PM BLOOD Neuts-60.2 ___ Monos-9.7 Eos-2.4 
Baso-0.3 Im ___ AbsNeut-4.20 AbsLymp-1.87 AbsMono-0.68 
AbsEos-0.17 AbsBaso-0.02
___ 08:47PM BLOOD Glucose-299* UreaN-14 Creat-1.0 Na-137 
K-3.9 Cl-96 HCO3-27 AnGap-14
___ 08:47PM BLOOD ALT-17 AST-13 AlkPhos-67 TotBili-0.5
___ 08:47PM BLOOD Lipase-75*
___ 08:47PM BLOOD cTropnT-<0.01
___ 05:00AM BLOOD cTropnT-<0.01
___ 07:10AM BLOOD cTropnT-<0.01
___ 11:50PM BLOOD cTropnT-<0.01
___ 07:10AM BLOOD Calcium-9.3 Phos-3.7 Mg-1.6 Iron-59 
Cholest-149
___ 08:47PM BLOOD Albumin-4.0
___ 11:00PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-1000* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 
Leuks-NEG
___ 11:00PM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

STUDIES
=======
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is free of angiographic disease.
* Left Anterior Descending
The LAD has hazy proximal 40% stenosis.
* Circumflex
The Circumflex has diffuse mid disease before a large OM.
* Right Coronary Artery
The RCA has mild diffuse disease.
Interventional Details
6 ___ EBU guide provided good support. A 90 cm Rabi sheath 
was required for brachiocephalic tortuosity. A Prowater wire was 
advanced to the distal OM. The lesion was predilated with 2.5 x 
15 balloon at ___ ATM. A 2.75 x 38 Promus ___ deplouyed at 
16 ATM and post dilated with 3.25 x 20
NC balloon at 16 and 20 ATM. Final angio showed 0% residual, no 
dissectioin and TIMI 3 flow. Intra-procedural Complications: 
None
Impressions:
1. Severe single vessel CAD with diffuse atherosclerosis.
2. Successful ___.
Recommendations
1. ASA 81 mg daily.
2. PLavix 75 mg daily x 12 months minimum.
3. High dose statin.
4. BP control

TTE ___
The left atrium is moderately dilated. There is mild symmetric 
left ventricular hypertrophy. The left ventricular ejection 
fraction is mildly reduced (45%) with inferior, posterior, and 
lateral hypokinesis. Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) are mildly thickened. The mitral valve leaflets are mildly 
thickened. Moderate (2+) mitral regurgitation is seen. [Due to 
acoustic shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion.

p-MIBI ___
IMPRESSION : No anginal symptoms or ST segment changes. Nuclear 
report 
sent separately. 
IMPRESSION:  Moderate defect with partial reversibility in the 
lateral wall with associated mild hypokinesis.  Slightly reduced 
ejection fraction at 49%.  Top normal left ventricular cavity 
size. 
  
RUQ U/S ___
1. Normal liver. 
2. 0.8 cm non mobile gallbladder polyp. 
3. No gallstones or evidence of acute cholecystitis. 

CXR ___
1. No acute cardiopulmonary process.

DISCHARGE LABS
==============
___ 05:07AM BLOOD WBC-6.4 RBC-3.93* Hgb-11.7* Hct-34.1* 
MCV-87 MCH-29.8 MCHC-34.3 RDW-13.3 RDWSD-42.4 Plt ___
___ 05:07AM BLOOD Glucose-199* UreaN-17 Creat-1.0 Na-139 
K-4.2 Cl-99 HCO3-25 AnGap-15
___ 05:07AM BLOOD Calcium-9.0 Phos-3.3 Mg-1.7
___ 07:10AM BLOOD calTIBC-250* Ferritn-218 TRF-192*
___ 07:10AM BLOOD %HbA1c-10.0* eAG-240*
___ 07:10AM BLOOD Triglyc-204* HDL-29* CHOL/HD-5.1 
LDLcalc-79
 
Brief Hospital Course:
Mr ___ is a ___ w/hx of CAD s/p anterior MI in ___, HTN, 
and DMII who p/w HA, chest pain, and epigastric pain, found to 
be having HTN urgency, nuclear stress test in ED with reversible 
defects, cath showed diffused CAD s/p DES to ___. HTN diff to 
control, adjusted BP meds.

#CORONARIES: diffuse CAD, s/p DES to ___ (___)
#PUMP: EF 45% with some posterior hypokinesis; 2+ MR
#RHYTHM: NSR

ACTIVE ISSUES: 
==============
# HYPERTENSIVE URGENCY
# HEADACHE 
# CHEST PAIN 
The patient presented with headache, chest pain, and systolic 
blood pressures elevated to greater than 220 but w/no signs of 
end-organ damage on laboratory studies. Had RUQ U/S as w/abd 
pain on admit, was neg, mildly elevated lipase, abd pain 
resolved on arrival. Slowly decreased BP and escalated 
anti-HTNs. Briefly required nitro gtt on arrival and after cath. 
Pt's home Valsartan increased to 320mg from 160mg, transitioned 
from home Metop to Carvedilol 25mg (max tolerated for HRs). Also 
initiated on Spironolactone 25mg, Chlorthalidone 25mg, 
Amlodipine 10mg qd. Will require outpatient work-up for 
resistant HTN.

# CORONARY ARTERY DISEASE 
# CHEST PAIN 
The patient has a history of CAD with reported MI in ___ 
in ___ without PCI being done. He presented with chest pain 
in the setting of HTN urgency, ECG significant for TWIs in 
lateral leads (I, aVL, V5, V6) but neg trops. +Pharm nuclear 
stress in ED significant for moderate defect with partial 
reversibility in the lateral wall with associated mild 
hypokinesis. Trops x3 were neg. Was c/w home ASA + Plavix, 
Atorva. Went for cath showing diffuse CAD w/DES in ___ before 
large OM. Will require at least 12mo of DAPT. Will f/u with Dr 
___ as outpatient.

# ANEMIA 
Unclear baseline. The patient presents with anemia on admission 
with a Hgb of 12.3. Iron studies not suggestive of ___, Hb 11.7 
on DC.

CHRONIC/STABLE ISSUES: 
======================
# DM2
Pt on Metformin 1000mg BID at home. Also on an unknown prn home 
insulin dose (unclear what type of insulin as well). A1c was 
10.0 on admission. Metformin held, on HISS. Required ___ 
insulin daily. Will need outpatient management of DM2

#BPH: c/w home Finasteride 5mg. Unable to fill Finasteride at 
___ specialty pharmacy, transitioned to Tamsulosin 0.4mg 
qhs upon DC

# GERD: c/w home PPI 

TRANSITIONAL ISSUES
===================
[] Please check electrolytes at next visit. Started on 
Spironolactone and Chlorthalidone, increased Valsartan dose. 
Please confirm no hyperkalemia. Maximized to Coreg 25mg, HRs in 
___, can increase further as outpatient. Please consider 
outpatient work-up of resistant HTN
[] Please trend CBC at f/u, consider further workup of anemia
[] Please review patient's DM meds at PCP ___. Pt on Metformin 
1000 BID at home + Insulin qhs prn. Unclear home insulin 
regimen. A1c was 10.0 on admission.
[] Unable to fill home Finasteride 5mg at ___ specialty, 
DC'd on Flomax 0.4mg qhs for BPH
[] Pt came from ___, has prior ___ application, 
status still pending, please have Case Management assist with 
continuing ___ 
[] Pt transitioned to Protonix from home Omeprazole (decreased 
Plavix effects)
[] Incidental Findings: Found to have 0.8 cm non mobile 
gallbladder polyp on RUQ U/S

#DC WEIGHT: 86.64kg (191 lbs) 
#CODE STATUS: full (confirmed) 
#CONTACT: ___ (wife) ___ 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 10 mg PO QPM 
2. Metoprolol Tartrate 100 mg PO BID 
3. Finasteride 5 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. Nitrofurantoin Monohyd (MacroBID) 100 mg PO TID 
8. valsartan-hydrochlorothiazide 160-12.5 mg oral DAILY 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth qPM Disp #*90 Tablet 
Refills:*0 
3.  Carvedilol 25 mg PO BID 
RX *carvedilol 25 mg 1 tablet(s) by mouth twice a day Disp #*180 
Tablet Refills:*0 
4.  Chlorthalidone 25 mg PO DAILY 
RX *chlorthalidone 25 mg 1 tablet(s) by mouth once a day Disp 
#*90 Tablet Refills:*0 
5.  Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth once a day Disp 
#*90 Tablet Refills:*0 
6.  Tamsulosin 0.4 mg PO QHS  
7.  Valsartan 320 mg PO DAILY 
RX *valsartan 320 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
8.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth qPM Disp #*90 Tablet 
Refills:*0 
9.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
10.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel [Plavix] 75 mg 1 tablet(s) by mouth once a day 
Disp #*90 Tablet Refills:*0 
11.  Finasteride 5 mg PO DAILY 
RX *finasteride 5 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
12.  MetFORMIN (Glucophage) 1000 mg PO BID 
RX *metformin 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*180 Tablet Refills:*0 
13.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*90 Tablet Refills:*0 
14.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hypertensive Urgency
CAD s/p DES

Secondary:
Type 2 Diabetes Mellitus
BPH
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had chest pain, a headache and 
very high blood pressure. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- We brought your blood pressure down slowly. Though it did not 
appear you had signs of a heart attack, we did a pharmacological 
stress test that showed some areas that were vulnerable to 
future damage. We did a cardiac catheterization that showed that 
one of the arteries that supplies your heart was almost fully 
closed and we put in a tube called a drug-eluting stent (DES) to 
open up the blockage in that artery

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Take all of your medications as prescribed (listed below) 
- It is very important to take your aspirin and clopidogrel 
(also known as Plavix) every day for at least the next ___ months
- These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents and having another 
heart attack  
- Please do not stop taking either medication without taking to 
your heart doctor.  
- You are also on other new medications to help your heart, 
please try to remember to take them regularly, especially your 
blood pressure medicines
- Follow up with your doctors as listed below: we scheduled you 
for a new primary care doctor
 
Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___